US06603005B2
A mixture of 1.4 g of benzyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate, 0.82 g of 1-(2-bromoethoxy)-2,6-difluorobenzene, 0.6 g of potassium iodide and 2 g of potassium carbonate in 100 cm3 of acetonitrile was heated for 18 hours at a temperature in the region of 75° C., with stirring and under an inert atmosphere. After cooling to a temperature in the region of 20° C., the reaction mixture was filtered and washed with three times 30 cm3 of acetonitrile. The filtrate was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under atmospheric pressure, on a column of silica gel (particle size 20-45μ; diameter 3 cm; height: 27 cm), eluting with ethyl acetate and collecting 50-cm3 fractions. Fractions 7 to 17 were combined and then concentrated to dryness under the above conditions. 1.65 g of benzyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,6-difluorophenoxy)ethyl]piperidine-4-carboxylate were obtained in the form of a thick yellow oil.

reactant | benzyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate | 1.4 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCNCC1)C(=O)OCC1=CC=CC=C1)OC | C26H29ClN2O3
reactant | 1-(2-bromoethoxy)-2,6-difluorobenzene | 0.82 g | BrCCOC1=C(C=CC=C1F)F | C8H7BrF2O
reactant | potassium iodide | 0.6 g | [I-].[K+]
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 cm3 | C(C)#N | C2H3N
product | benzyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,6-difluorophenoxy)ethyl]piperidine-4-carboxylate | 1.65 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCOC1=C(C=CC=C1F)F)C(=O)OCC1=CC=CC=C1)OC | C34H35ClF2N2O4
